US04551460
3-Thiophenehexanol was prepared by reduction of 8.4 g of 6-(3-thiophenyl)-5-hexyn-1-ol, in 100 ml of ethanol over 1.0 g of 10% palladium/carbon at atmospheric pressure. After 8 hours a second catalyst loading was added and the reduction continued over night. The residue obtained after filtration and evaporation of the solvent was evaporatively distilled to give 6.9 g (80%) of 3-thiophenehexanol, bp 135°-147° C./0.2 mm.

reactant | 6-(3-thiophenyl)-5-hexyn-1-ol | 8.4 g | S1C=C(C=C1)C#CCCCCO | C10H12OS
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 1.0 g | [Pd] | Pd
product | 3-thiophenehexanol | 6.9 g, 80% | S1C=C(C=C1)CCCCCCO | C10H16OS
